### PR TITLE
[Merged by Bors] - feat(ValuationSubring): fieldTop

### PR DESCRIPTION
**Pull request by xgenereux**
Given a field `K`, the top element of `ValuationSubring K` is `K`, so top is also a field.

---

Note: I fear this would be a bad instance so I have marked this as an abbrev for now.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Valuation/ValuationSubring.lean [hunk 1]
```diff
@@ -94,6 +94,19 @@ theorem mem_top (x : K) : x ∈ (⊤ : ValuationSubring K) :=
 
 theorem le_top : A ≤ ⊤ := fun _a _ha => mem_top _
 
+variable (K) in
+/-- If `K` is a field, then so is `K` viewed as a valuation subring
+of itself. (That is, `⊤ : ValuationSubring K`.) -/
+noncomputable abbrev fieldTop : Field (⊤ : ValuationSubring K) := by
```
Comment (vihdzp) [inline Mathlib/RingTheory/Valuation/ValuationSubring.lean]: ~~Would a more proper way to do this not be to define the ring isomorphism `K ≃** ValuationSubring K`?~~ Actually thinking about it having all of the isomorphisms between `K` and `⊤ : SubWhatever K` seems like too much boilerplate, so I guess it's fine to do this.

File: Mathlib/RingTheory/Valuation/ValuationSubring.lean [hunk 2]
```diff
@@ -94,6 +94,19 @@ theorem mem_top (x : K) : x ∈ (⊤ : ValuationSubring K) :=
...
+  apply Field.ofIsUnitOrEqZero
+  intro ⟨a, ha⟩
+  by_cases h0 : a = 0
+  · aesop
+  · left
+    rw [isUnit_iff_exists_inv']
+    use ⟨a⁻¹, ValuationSubring.mem_top _⟩
+    aesop
```
Comment (vihdzp) [inline Mathlib/RingTheory/Valuation/ValuationSubring.lean]: Untested, but something like this should work?
```suggestion
  refine Field.ofIsUnitOrEqZero fun ⟨a, ha⟩ ↦ ?_
  rw [Classical.or_iff_not_imp_right, isUnit_iff_exists_inv']
  use ⟨a⁻¹, ValuationSubring.mem_top _⟩
  aesop
```

Comment (xgenereux) [reply Mathlib/RingTheory/Valuation/ValuationSubring.lean]: Almost, I've updated the proof in that direction.

File: Mathlib/RingTheory/Valuation/ValuationSubring.lean [hunk 3]
```diff
@@ -94,6 +94,16 @@ theorem mem_top (x : K) : x ∈ (⊤ : ValuationSubring K) :=
...
 theorem le_top : A ≤ ⊤ := fun _a _ha => mem_top _
 
+variable (K) in
+/-- If `K` is a field, then so is `K` viewed as a valuation subring
+of itself. (That is, `⊤ : ValuationSubring K`.) -/
+noncomputable abbrev fieldTop : Field (⊤ : ValuationSubring K) := by
+  refine Field.ofIsUnitOrEqZero fun ⟨a, ha⟩ ↦ ?_
+  rw [Classical.or_iff_not_imp_right, isUnit_iff_exists_inv']
+  intro h
+  use ⟨a⁻¹, ValuationSubring.mem_top _⟩
```
Comment (vihdzp) [inline Mathlib/RingTheory/Valuation/ValuationSubring.lean]: You could merge these two lines as well (though you might argue the original is cleaner)
```suggestion
  refine fun h ↦ ⟨⟨a⁻¹, ValuationSubring.mem_top _⟩, ?_⟩
```

**Review by vihdzp — APPROVED** [review]

File: Mathlib/RingTheory/Valuation/ValuationSubring.lean [hunk 4]
```diff
@@ -94,6 +94,16 @@ theorem mem_top (x : K) : x ∈ (⊤ : ValuationSubring K) :=
 
 theorem le_top : A ≤ ⊤ := fun _a _ha => mem_top _
 
+variable (K) in
+/-- If `K` is a field, then so is `K` viewed as a valuation subring
+of itself. (That is, `⊤ : ValuationSubring K`.) -/
+noncomputable abbrev fieldTop : Field (⊤ : ValuationSubring K) := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Valuation/ValuationSubring.lean]: Does `abbrev fieldTop : Field (⊤ : ValuationSubring K) := inferInstanceAs (Field (⊤ : Subfield K))` work?

Comment (erdOne) [reply Mathlib/RingTheory/Valuation/ValuationSubring.lean]: If so then it has the right defeqs and could be an instance.

Comment (xgenereux) [reply Mathlib/RingTheory/Valuation/ValuationSubring.lean]: Changed to an instance - should we bench? Also, the name `ValuationSubring.instFieldSubtypeMemTop` is not great but maybe we don't care?

File: Mathlib/RingTheory/Valuation/ValuationSubring.lean [hunk 5]
```diff
@@ -94,6 +94,10 @@ theorem mem_top (x : K) : x ∈ (⊤ : ValuationSubring K) :=
 
 theorem le_top : A ≤ ⊤ := fun _a _ha => mem_top _
 
+/-- If `K` is a field, then so is `K` viewed as a valuation subring
+of itself. (That is, `⊤ : ValuationSubring K`.) -/
+instance : Field (⊤ : ValuationSubring K) := inferInstanceAs (Field (⊤ : Subfield K))
```
Comment (erdOne) [inline Mathlib/RingTheory/Valuation/ValuationSubring.lean:99]: I think you need `coe_div` and `coe_inv` lemmas.

File: Mathlib/RingTheory/Valuation/ValuationSubring.lean (hunk 4 above)
Comment (erdOne) [reply Mathlib/RingTheory/Valuation/ValuationSubring.lean]: I don't think we care about the name. I also don't think it will have performance impacts but it doesn't hurt to bench if you are not sure.

**Comment by erdOne** [comment]
Thanks!
maintainer merge

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
